US06825378B2
To a mixture of K3Fe(CN)6, K2CO3 and Hydroquiniel,4,-phthalazinediyldiether (DHQ)2PHAL in t-BuOH—H2O (1:1) cooled to 0° C. was added OsO4 (0.1M solution in toluene). After stirring for 5 minutes at 0° C. α-cyclohexylstyrene was added in one portion. The reaction mixture was stirred at 0° C. for 18 b and then quenched with solid sodium sulfite. The stirring was continued for 1 h and the solution was extracted with ethyl acetate. The combined organic phases were washed (brine), dried (Na2SO4) and concentrated Silica gel column chromatography of crude product using petroleum ether:EtOAc (4:1) as eluent gave (S)-1-cyclohexyl-1-phenyl-1,2-ethanediol as a white solid.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | (DHQ)2PHAL | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | α-cyclohexylstyrene | C1(CCCCC1)C(=C)C1=CC=CC=C1 | C14H18
reactant | t-BuOH—H2O | C(C)(C)(C)O.O
catalyst | OsO4 | 0.1M | O=[Os](=O)(=O)=O
product | (S)-1-cyclohexyl-1-phenyl-1,2-ethanediol | C1(CCCCC1)[C@](CO)(O)C1=CC=CC=C1 | C14H20O2
